US08877782B2
a) 6-[3-(4-Fluoro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid
As described for example 324, 6-[3-(4-fluoro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (4.0 g, 12.2 mmol) was converted, instead of 6-(5-methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester, to the title compound (3.1 g, 81%) which was obtained as a white solid. MS: m/e=313.3 [M−H]−.

reactant | 6-[3-(4-fluoro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 12.2 mmol, 4.0 g | COC(C1=CN=C(C=C1)OCC=1C(=NOC1)C1=CC=C(C=C1)F)=O | C17H13FN2O4
reactant | 6-(5-methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=NC=CC=C1)=O | C17H15N3O4
product | 6-[3-(4-Fluoro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid | 3.1 g, 81% | FC1=CC=C(C=C1)C1=NOC=C1COC1=NC=C(C(=O)O)C=C1 | C16H11FN2O4
